US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and propylisocyanate (0.26 g, 3.30 mmol) in THF (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. The mixture was heated to 40° C. for 18 h then cooled to rt. The solvent was removed in vacuo and the residue was dissolved in EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (2×150 mL), water (2×150 mL), dried (MgSO4) and then concentrated. The crude product was purified by column chromatography (0-5% MeOH/CH2Cl2, gradient over 15 min). The product fractions were combined, concentrated and triturated in Et2O/CH2Cl2 (50 mL) for 18 h. The product was isolated by filtration dried in vacuo to give 1-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-propyl-urea as a white solid (0.24 g, 29% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 1.63 min (98.92%); mp: 166-168° C.; 1H NMR (DMSO-d6) δ 0.83 (t, J=7.3 Hz, 3H, CH3), 1.31-1.46 (m, 2H, CH2), 2.03-2.08 (m, 1H, CHH), 2.45-2.62 (m, 2H, CHH, CHH), 2.82-3.01 (m, 3H, CHH, CH2), 4.36 (d, J=5.9 Hz, 2H, CH2), 5.14 (dd, J=5.3, 12.6 Hz, 1H, CH), 6.10 (t, J=5.7 Hz, 1H, NH), 6.53 (t, J=6.0 Hz, 1H, NH), 7.71-7.89 (m, 3H, Ar), 11.13 (s, 1H, NH); 13C NMR (DMSO-d6) δ 11.31, 22.01, 23.16, 30.94, 41.20, 42.74, 48.98, 121.54, 123.39, 129.51, 131.53, 133.07, 149.53, 158.03, 167.06, 167.24, 169.84, 172.74; LCMS: MH=373; Anal Calcd for C18H20N4O5+0.1H2O: C, 57.78; H, 5.44; N, 14.97. Found: C, 57.52; H, 5.37; N, 14.76.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | propylisocyanate | 3.30 mmol, 0.26 g | C(CC)N=C=O | C4H7NO
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-propyl-urea | 0.24 g, 29% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)NCCC)=O)=O | C18H20N4O5
